US03987052
In the manner given in Example 2, 9-(propylsulfonyl)-7-methyl-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepine-2-thione is heated in ethanol with propionic acid hydrazide and the resulting product heated to 250° C. to give 10-(propylsulfonyl)-8-methyl-1-ethyl-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 9-(propylsulfonyl)-7-methyl-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepine-2-thione | C(CC)S(=O)(=O)C1=CC(=CC=2C(=NCC(NC21)=S)C2=CC=CC=C2)C | C19H20N2O2S2
reactant | propionic acid hydrazide | C(CC)(=O)NN | C3H8N2O
solvent | ethanol | C(C)O | C2H6O
product | 10-(propylsulfonyl)-8-methyl-1-ethyl-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | C(CC)S(=O)(=O)C1=CC(=CC=2C(=NCC=3N(C21)C(=NN3)CC)C3=CC=CC=C3)C | C22H24N4O2S
